US03994918
To a suspension of 8.35 g. of activated zinc in 120 ml. of absolute benzene is added at room temperature a solution of 10.3 g. of dibenzo[a,d]cyclohepten-5-one and 8.35 g. of ethyl bromoacetate in 50 ml. of absolute benzene. After about one quarter of said solution has been so added the mixture is heated at reflux until the resulting reaction subsides and then the remainder of the solution is added while maintaining reflux temperatures. After addition is completed the resulting mixture is refluxed for an additional 4 hours. The resulting mixture is then added to dilute acetate acid and extracted 2 times with ethyl acetate. The combined organic phases are washed with water, dried and evaporated in vacuo. The residue is crystallized from diethyl ether/pentane to obtain 5-hydroxy-dibenzo[a,d]cyclohepten-5-acetic acid ethyl ester, m.p. 93°-99° C.

reactant | dibenzo[a,d]cyclohepten-5-one | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=O | C15H10O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | acetate | C(C)(=O)[O-]
catalyst | zinc | [Zn] | Zn
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-hydroxy-dibenzo[a,d]cyclohepten-5-acetic acid ethyl ester | C(C)OC(CC1(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)O)=O | C19H18O3
